US04786645
7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride (6 g) is added, at a temperature between 65° and 72° C., to a solution of 2-amino-4-methylpyridine (2.15 g) and triethylamine (4.05 g) in dioxane (100 cc) which is heated to a temperature in the vicinity of 65° C., in the course of 20 minutes. The suspension obtained is heated, with stirring, at a temperature in the vicinity of 100° C. for 5 hours and 45 minutes and then stirred at a temperature in the vicinity of 20° C. for 16 hours. The solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. The residue is dissolved in methylene chloride (250 cc). The solution obtained is washed with distilled water (100 cc) and then with an aqueous 4N sodium hydroxide solution (100 cc) and 3 times with distilled water (450 cc in total) and then dried over anhydrous magnesium sulphate, treated with decolorizing charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 50° C. A crude product (4.8 g) is thereby obtained, which is dissolved in boiling acetonitrile (50 cc). Decolorizing charcoal (0.5 g) is added to the solution obtained and the suspension is filtered in the heated state. The filtrate is cooled at a temperature in the vicinity of 4° C. for 1 hour. The crystals formed are separated by filtration, washed twice with acetonitrile cooled to a temperature in the vicinity of 4° C. (10 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. N-(4-methyl-2-pyridyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (1.5 g) in the form of cream-coloured crystals, m.p. 163° C., is thereby obtained.

reactant | 7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride | 6 g | Cl.ClC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2
reactant | 2-amino-4-methylpyridine | 2.15 g | NC1=NC=CC(=C1)C | C6H8N2
reactant | triethylamine | 4.05 g | C(C)N(CC)CC | C6H15N
reactant | charcoal | 0.5 g | C | CH4
solvent | dioxane | 100 cc | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
product | N-(4-methyl-2-pyridyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 1.5 g | CC1=CC(=NC=C1)NC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2 | C18H16N4OS
